US07468371B2
1-(ethoxymethyl)-4-methylpiperazine
To a suspension of paraformaldehyde and potassium carbonate in ethanol at about 0° C. was added 1-methylpiperazine dropwise. The mixture was stirred vigorously at room temperature for about 67 hours and filtered. The filter cake was washed with diethyl ether and the combined filtrates were concentrated under vacuum. The residue was distilled under reduced pressure (30° C. at 2.5 Torr) to provide the desired product. 1H NMR (500 MHz, DMSO-d6): δ 1.09 (t, J=6.8 Hz, 3H), 2.14 (s, 3H), 2.28 (m, 4H), 2.56 (m, 4H), 3.40 (q, J=6.8 Hz, 2H), 3.96 (s, 2H).

reactant | paraformaldehyde | C=O | CH2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | ethanol | C(C)O | C2H6O
product | 1-(ethoxymethyl)-4-methylpiperazine | C(C)OCN1CCN(CC1)C | C8H18N2O
